US06846819B1
b) (E)-N-(1,3-Dimethyl-1H-indol-2-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-3-yl)acrylamide
To a stirred solution of N-(1,3-dimethyl-1H-indol-2-ylmethyl)N-methylacrylamide (1.7 g, 7 mmole) in propionitrile (50 mL) was added 6-bromo3,4-dihydro-1H-1,8-naphthyridin-2-one (1.16 g, 5.1 mmole), DIEA (1.8 mL, 10.3 mmole), palladium(II) acetate (112 mg, 0.5 mmole), and tri-o-tolylphosphine (304 mg, 1.0 mmole). The reaction was purged with argon and heated at reflux for 16 hr, then was cooled to RT and concentrated under vacuum. Purification by flash chromatography on silica gel (5% methanol/CHCl3), trituration with ethyl acetate, filtration, and drying under vacuum gave the title compound (1.17 g, 59%) as an off-white solid: LCMS (ES) m/e 389.2 (M+H)+.

reactant | N-(1,3-dimethyl-1H-indol-2-ylmethyl)N-methylacrylamide | 7 mmole, 1.7 g | CN1C(=C(C2=CC=CC=C12)C)CN(C(C=C)=O)C | C15H18N2O
reactant | 6-bromo3,4-dihydro-1H-1,8-naphthyridin-2-one | 5.1 mmole, 1.16 g | BrC=1C=C2CCC(NC2=NC1)=O | C8H7BrN2O
reactant | DIEA | 10.3 mmole, 1.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tri-o-tolylphosphine | 1.0 mmole, 304 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | propionitrile | 50 mL | C(CC)#N | C3H5N
catalyst | palladium(II) acetate | 0.5 mmole, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-N-(1,3-Dimethyl-1H-indol-2-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-3-yl)acrylamide | 1.17 g, 59% | CN1C(=C(C2=CC=CC=C12)C)CN(C(\C=C\C=1C=NC=2NC(CCC2C1)=O)=O)C | C23H24N4O2
